US07585886B2
A 237 mg portion of 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoic acid was dissolved in 2.0 ml of 4 M hydrogen chloride/1,4-dioxane solution and 2.0 ml of methanol at room temperature and stirred for 62Hours. The reaction solution was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) and then dissolved in 2.0 ml of ethyl acetate, mixed with 1.0 ml of 4 M hydrogen chloride/ethyl acetate solution and concentrated under a reduced pressure. The residue was dissolved in ethanol and mixed with ethyl acetate, and the thus obtained precipitate was collected by filtration and dried under a reduced pressure to obtain 40 mg of 6-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoic acid hydrochloride as a colorless solid.

reactant | 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoic acid | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCCCC(=O)O)=O | C34H42N2O5
reactant | methanol | 2.0 ml | CO | CH4O
reactant | hydrogen chloride 1,4-dioxane | 4 M, 2.0 ml | Cl.O1CCOCC1
product | 6-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoic acid hydrochloride | 40 mg | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCCCC(=O)O)=O | InChI=1S/C29H34N2O3.ClH/c1-21(25-15-9-13-22-12-5-6-14-26(22)25)30-18-24-19-31(28(32)16-7-8-17-29(33)34)20-27(24)23-10-3-2-4-11-23;/h2-6,9-15,21,24,27,30H,7-8,16-20H2,1H3,(H,33,34);1H/t21-,24+,27-;/m1./s1
